US04771050
A mixture of 2,3-dichloronitrobenzene (3.84 g), methyl 2-mercapto-3-methybutyrate (2.96 g), potassium carbonate (2.37 g), and N,N-dimethylformamide (40 ml) was stirred at room temperature for 5 hours, diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), from which the solvent was evaporated off, to give quantitatively methyl 2-(2-chloro-6-nitrophenylthio)-3-methylbutyrate as an oil.

reactant | 2,3-dichloronitrobenzene | 3.84 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | methyl 2-mercapto-3-methybutyrate | 2.96 g | SC(C(=O)OC)C(C)C | C6H12O2S
reactant | potassium carbonate | 2.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-(2-chloro-6-nitrophenylthio)-3-methylbutyrate | ClC1=C(C(=CC=C1)[N+](=O)[O-])SC(C(=O)OC)C(C)C | C12H14ClNO4S
